US04673746
A mixture of 53 g of 2,3-dichloro-4-methoxy-3',4'-dichlorobenzophenone and 40 g AlCl3 in 400 ml of benzene is refluxed for five hours and then cooled to room temperature and maintained there for about 18 hours. The mixture is then poured over 200 ml of concentrated HCl and 200 ml of ice and then stirred at room temperature for one half hour. Ethylacetate is added to the mixture and the ethyl acetate/benzene layer is washed with water, dried over Na2SO4 and then evaporated to yield 2,3-dichloro-4-hydroxy-3',4'-dichlorobenzophenone, mp 179°-180° C.

reactant | 2,3-dichloro-4-methoxy-3',4'-dichlorobenzophenone | 53 g | ClC1=C(C(=O)C2=CC(=C(C=C2)Cl)Cl)C=CC(=C1Cl)OC | C14H8Cl4O2
reactant | AlCl3 | 40 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | 200 ml | Cl | ClH
reactant | Ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | benzene | 400 ml | C1=CC=CC=C1 | C6H6
product | 2,3-dichloro-4-hydroxy-3',4'-dichlorobenzophenone | ClC1=C(C(=O)C2=CC(=C(C=C2)Cl)Cl)C=CC(=C1Cl)O | C13H6Cl4O2
